US07262185B2
To 3-[[[4-nitro-2-(trifluoromethyl)phenyl]sulfanyl]methyl]pyridine (2.2 g) was added acetic acid (22 ml), and reduced iron (6.6 g) was added to the mixture, and the mixture was stirred for 240 hours at room temperature. The mixture was filtered with Celite, and the mixture was washed with ethyl acetate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 4-[(3-pyridinylmethyl)sulfanyl]-3-(trifluoromethyl)aniline (0.83 g).

reactant | 3-[[[4-nitro-2-(trifluoromethyl)phenyl]sulfanyl]methyl]pyridine | 2.2 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCC=1C=NC=CC1)C(F)(F)F | C13H9F3N2O2S
solvent | acetic acid | 22 ml | C(C)(=O)O | C2H4O2
product | 4-[(3-pyridinylmethyl)sulfanyl]-3-(trifluoromethyl)aniline | 0.83 g | N1=CC(=CC=C1)CSC1=C(C=C(N)C=C1)C(F)(F)F | C13H11F3N2S
